US06420375B1
Preparation of 4-(1H-imidazol-1-yl)-1-(2-naphthyl)-1-butanone
To a cooled (0° C.) solution of 4-hydroxy-1-(2-naphthyl)-1-butanone (4.32 g) in THF (60 ml) were added triethylamine (5.6 ml) and methanesulfonyl chloride (2.4 ml) successively. The mixture was stirred at 0° for 1 hour. Imidazole (2.93 g) and NaI (0.02 g) were added to the mixture and resulting mixture was refluxed for 16 hours. Water was added and the mixture was concentrated. The residue was extracted with ethyl acetate and the extract was washed with water and brine, dried and concentrated. The residue was chromatographed on silica gel, eluting with ethyl acetate-methanol=20:1, followed by crystallization from ethyl acetate-CH2Cl2-cyclohexane to give the titled compound (1.21 g) as a colorless solid.

reactant | 4-hydroxy-1-(2-naphthyl)-1-butanone | 4.32 g | OCCCC(=O)C1=CC2=CC=CC=C2C=C1 | C14H14O2
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Imidazole | 2.93 g | N1C=NC=C1 | C3H4N2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | NaI | 0.02 g | [Na+].[I-]
solvent | Water | O | H2O
product | 4-(1H-imidazol-1-yl)-1-(2-naphthyl)-1-butanone | 1.21 g | N1(C=NC=C1)CCCC(=O)C1=CC2=CC=CC=C2C=C1 | C17H16N2O
